US08372867B2
A solution of 3-(3-bromo-4-methylphenyl)-5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazole (1.2 g), N-bromosuccinimide (0.54 g) and 2,2′-azobisisobutylonitrile (0.05 g) in dichloroethane (20 mL) was heated to reflux for 3 hours. The solvent was distilled off under reduced pressure, the residue was diluted with t-butylmethylether, and the solution was washed with water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel chromatography to yield 3-[3-bromo-4-(bromomethyl)-phenyl]-5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazole (1.0 g).

reactant | 3-(3-bromo-4-methylphenyl)-5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazole | 1.2 g | BrC=1C=C(C=CC1C)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C17H11BrCl2F3NO
reactant | N-bromosuccinimide | 0.54 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
product | 3-[3-bromo-4-(bromomethyl)-phenyl]-5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazole | 1.0 g | BrC=1C=C(C=CC1CBr)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C17H10Br2Cl2F3NO
